US08445509B2
Production of ethyl 2-(2-chlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 63 and using (2-chlorophenyl)hydrazine•hydrochloride (5 g, 28 mmol), water (100 mL), potassium carbonate (8.5 g, 62 mmol) and diethyl ethoxymethylenemalonate (7.3 g, 34 mmol) as starting materials, the title compound (5.8 g, 78%) was obtained as a white solid.

reactant | (2-chlorophenyl)hydrazine•hydrochloride | 28 mmol, 5 g | ClC1=C(C=CC=C1)NN.Cl
reactant | potassium carbonate | 62 mmol, 8.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ethoxymethylenemalonate | 34 mmol, 7.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 100 mL | O | H2O
product | ethyl 2-(2-chlorophenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 5.8 g, 78% | ClC1=C(C=CC=C1)N1NC=C(C1=O)C(=O)OCC | C12H11ClN2O3
